US04060526
Step 1. 1-(2-Hydroxypropyl)-4-phenylpiperazine hydrochloride
N-Phenylpiperazine (130 g.) was dissolved in 200 ml. methanol and the solution cooled to 0°-10° C. Propylene oxide (62 ml) was added over 5 minutes at a temperature under 10° . After the addition the cooling bath was removed. The reaction was allowed to warm to a maximum of 30° . When the reaction temperature stopped rising the solution was refluxed for 11/2 hours and then cooled. A solution of 1 mole HCl gas in 100 ml. methanol was added gradually followed by 300 ml. ether. The solid was filtered, washed with methanol-ether, then with ether to give 170 g., m. 201-5° .

reactant | N-Phenylpiperazine | 130 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | methanol | CO | CH4O
reactant | Propylene oxide | 62 ml | C1C(C)O1 | C3H6O
reactant | HCl | 1 mole | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(2-Hydroxypropyl)-4-phenylpiperazine hydrochloride | Cl.OC(CN1CCN(CC1)C1=CC=CC=C1)C | InChI=1S/C13H20N2O.ClH/c1-12(16)11-14-7-9-15(10-8-14)13-5-3-2-4-6-13;/h2-6,12,16H,7-11H2,1H3;1H
